US07456164B2
4-[4-(2-Methyl-3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-pyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (790 mg, 3.87 mmol), 1-(3-chloro-2-methyl-propyl)-pyrrolidine (500 mg, 3.10 mmol), DMF (5 ml) and K2CO3 (2.14 g, 15.50 mmol) were reacted together according to general procedure E. The organic phase was washed with 2M NaOH (3×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. to provide the title compound (979 mg, 96%) as a yellow solid. 1H NMR (400 MHz, CDCl3), δ 7.37 (d, 2H), 6.95 (d, 2H), 4.11-4.03 (m, 2H), 4.02 (dd, 1H), 3.89 (td, 2H), 3.77 (dd, 1H), 2.60-2.42 (m, 5H), 2.32 (dd, 1H), 2.22-1.99 (m, 5H), 1.82-1.72 (m, 4H), 1.07 (d, 3H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 3.87 mmol, 790 mg | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | 1-(3-chloro-2-methyl-propyl)-pyrrolidine | 3.10 mmol, 500 mg | ClCC(CN1CCCC1)C | C8H16ClN
reactant | K2CO3 | 15.50 mmol, 2.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[4-(2-Methyl-3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-pyran-4-carbonitrile | 979 mg, 96% | CC(COC1=CC=C(C=C1)C1(CCOCC1)C#N)CN1CCCC1 | C20H28N2O2
